US08445674B2
D) 4-[[(R)-2-(3-Chloro-4-trifluoromethyl-phenylamino)-propyl]-(3,3-dimethoxy-propionyl)-amino]-butyric acid tert-butyl ester (22% ee)
A solution of 1.25 g (3.20 mmol) of 4-[(R)-2-(3-chloro-4-trifluoromethyl-phenylamino)-propylamino]-butyric acid tert-butyl ester (22% ee) in 25 ml CH2Cl2 was treated with a solution of 1.00 g (3.80 mmol) of 2-chloro-1-methylpyridinium iodide and 0.51 g (3.80 mmol) of 3,3-dimethoxy-propionic acid (synthesized from methyl 3,3-dimethoxy-propionate by hydrolysis with LiOH) in 5 ml of CH2Cl2. The suspension was cooled and treated at 0° C. with 1.89 ml (7.90 mmol) of tributylamine. The reaction was naturally warmed to RT over night. The reaction was extracted with 10% aq. KHSO4 solution/diethyl ether (3×). The organic phases were washed with 10% aq. KHSO4 solution (2×), sat. aq. NaHCO3 solution, 10% aq. NaCl solution and dried over Na2SO4 to yield 1.68 g (quantitative) of the title compound as a 61:39 mixture of the (R) and (S) diastereomers as light brown oil. MS: 511.22 (MH+, Cl).

reactant | 4-[(R)-2-(3-chloro-4-trifluoromethyl-phenylamino)-propylamino]-butyric acid tert-butyl ester | 3.20 mmol, 1.25 g | C(C)(C)(C)OC(CCCNC[C@@H](C)NC1=CC(=C(C=C1)C(F)(F)F)Cl)=O | C18H26ClF3N2O2
reactant | 2-chloro-1-methylpyridinium iodide | 3.80 mmol, 1.00 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | 3,3-dimethoxy-propionic acid | 3.80 mmol, 0.51 g | COC(CC(=O)O)OC | C5H10O4
reactant | tributylamine | 7.90 mmol, 1.89 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-[[(R)-2-(3-Chloro-4-trifluoromethyl-phenylamino)-propyl]-(3,3-dimethoxy-propionyl)-amino]-butyric acid tert-butyl ester | C(C)(C)(C)OC(CCCN(C(CC(OC)OC)=O)C[C@@H](C)NC1=CC(=C(C=C1)C(F)(F)F)Cl)=O | C23H34ClF3N2O5
